US06114537
Synthesis of 3-carboxy-1,2,4-thiadiazolo[4,5-a]benzimidazole
To a 6 mL solution of 1N NaOH, 3-(methoxycarbonyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole (1.0 g, 4.3 mmole) in 6 mL of dioxane, was added. The reaction mixture was stirred at room temperature until completion. The resulting mixture was then acidified with 3N HCl to pH ~2.0, and stirred at room temperature for an additional 0.5 h. The solid was filtered, washed with water, and dried under vacuum at 60° C. for 24 h to yield 0.74 g (78%) of the title compound as a colourless solid: mp 184-185° C. (dec); 1H NMR (DMSO-d6)δ 13.79 (br s, 1H), 8.59 (d, 1H) 7.78 (d, 1H), 7.51 (t, 1H), 7.40 (t, 1H); IR (KBr)ν 3435, 1705 cm-1 ; MS m/z 193 (M+ -OH), 175 (M- --CO2).

reactant | NaOH | 1N | [OH-].[Na+]
reactant | 3-(methoxycarbonyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 4.3 mmole, 1.0 g | COC(=O)C1=NSC2=NC3=C(N21)C=CC=C3 | C10H7N3O2S
reactant | HCl | 3N | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 3-carboxy-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.74 g, 78% | C(=O)(O)C1=NSC2=NC3=C(N21)C=CC=C3 | C9H5N3O2S
